US06599902B2
Synthesis of 3-[1-[4-((3R,5S)-3,5-Dimethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one
5-Phenylmethanesulfonyl-1,3-dihydro-indol-2-one was condensed with 4-((3R,5S)-3,5-dimethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde to give the titled compound.

reactant | 5-Phenylmethanesulfonyl-1,3-dihydro-indol-2-one | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
reactant | 4-((3R,5S)-3,5-dimethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | C[C@@H]1CN(C[C@@H](N1)C)CC=1C(=C(NC1C)C=O)C | C14H23N3O
product | 3-[1-[4-((3R,5S)-3,5-Dimethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | C[C@@H]1CN(C[C@@H](N1)C)CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC=CC=C1)=O)C | C29H34N4O3S
